US07081538B1
(5RS)-3-(4-((2S)-2.3-Dihydroxypropyl-1.2.5.6-tetrahydropyrid-4-yl)phenyl)-5-isoxazol-3-yloxymethyl-4,5-dihydroisoxazole
(5RS)-3-(4-(1,2,5,6-Tetrahydropyrid-4-yl)phenyl)-5-isoxazol-3-yloxymethyl-4,5-dihydro-isoxazole hydrochloride (300 mg, 0.83 mM) was treated with (4S)-2,2-dimethyl-1,3-dioxolan-4-ylcarbonyl chloride under essentially the conditions of Example 2. Crude product was chromatographed on a 20 g silica Mega Bond Elut® column, eluting with 5% methanol in dichloromethane. Relevant fractions were combined to give the desired product (43 mg).

reactant | (5RS)-3-(4-(1,2,5,6-Tetrahydropyrid-4-yl)phenyl)-5-isoxazol-3-yloxymethyl-4,5-dihydro-isoxazole hydrochloride | 0.83 mM, 300 mg | Cl.N1CC=C(CC1)C1=CC=C(C=C1)C1=NOC(C1)COC1=NOC=C1
reactant | (4S)-2,2-dimethyl-1,3-dioxolan-4-ylcarbonyl chloride | CC1(OC[C@H](O1)C(=O)Cl)C | C6H9ClO3
product | (5RS)-3-(4-((2S)-2.3-Dihydroxypropyl-1.2.5.6-tetrahydropyrid-4-yl)phenyl)-5-isoxazol-3-yloxymethyl-4,5-dihydroisoxazole | 43 mg | O[C@@H](CN1CC=C(CC1)C1=CC=C(C=C1)C1=NOC(C1)COC1=NOC=C1)CO | C21H25N3O5
